US09255097B2
4-[2-(4-amino-piperidin-1-yl)-1-(3-hydroxy-propyl)-6-oxo-1,6-dihydro-pyrimidin-4-yl]-2-fluoro-benzonitrile
To a solution of {1-[4-(4-cyano-3-fluoro-phenyl)-1-(3-methoxy-propyl)-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester (200 mg, 0.41 mmol) in DCM was added 1M BBr3 (4 mL) at −78° C. The mixture was stirred at RT for 2 h and quenched at 0° C. with MeOH. The solution was washed with aqueous saturated NaHCO3. The organic layer was dried and concentrated. The residue was purified by preparative HPLC to give 35 mg of the title product as the hydrochloride salt (23%). 1H NMR (400 MHz, CD3OD): 1.65-1.69 (m, 2H), 1.97-2.19 (m, 4H), 3.13-3.22 (m, 2H), 3.48-3.55 (m, 1H), 3.73 (t, J=8.0 Hz, 2H), 4.55 (t, J=8.0 Hz, 2H), 4.94-4.95 (m, 2H), 6.71 (s, 1H), 7.88-8.05 (m, 3H). [M+H] Calc'd for C19H22FN5O2, 371. Found, 371.

reactant | {1-[4-(4-cyano-3-fluoro-phenyl)-1-(3-methoxy-propyl)-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | 0.41 mmol, 200 mg | C(C)(C)(C)OC(NC1CCN(CC1)C=1N(C(C=C(N1)C1=CC(=C(C=C1)C#N)F)=O)CCCOC)=O | C25H32FN5O4
reactant | BBr3 | 1M, 4 mL | B(Br)(Br)Br | BBr3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-[2-(4-amino-piperidin-1-yl)-1-(3-hydroxy-propyl)-6-oxo-1,6-dihydro-pyrimidin-4-yl]-2-fluoro-benzonitrile | 35 mg | NC1CCN(CC1)C=1N(C(C=C(N1)C1=CC(=C(C#N)C=C1)F)=O)CCCO | C19H22FN5O2
